US07842715B2
A solution of 4-fluorobenzoic acid (1.5 g, 10.71 mmol) in dichloroethane:DMF (4:1) was treated with O-benzotriazol-1-yl-N,N,N′N′-tetramethlyuronium tetrafluoroborate (4.13 gm 12.85 mmol) and N-methylmorpholine (5.41 g, 53.55 mmol) followed by a solution of (3′S)-1,3′-bipyrrolidine (2.52 g, 11.77 mmol) in dichloroethane:DMF (4:1). The reaction mixture was stirred at room temperature for 3 h and quenched with saturated sodium hydrogen carbonate. The phases were separated. The aqueous phase was extracted with ethyl acetate. The organic phase and the extracts were combined, washed sequentially with water and saturated aqueous sodium chloride, dried over magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash column chromatography to provide (3′S)-1′-(4-fluorobenzoyl)-1,3′-bipyrrolidine (57%) as a white solid.

reactant | 4-fluorobenzoic acid | 10.71 mmol, 1.5 g | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
reactant | N-methylmorpholine | 53.55 mmol, 5.41 g | CN1CCOCC1 | C5H11NO
reactant | (3′S)-1,3′-bipyrrolidine | 11.77 mmol, 2.52 g | N1(CCCC1)[C@@H]1CNCC1 | C8H16N2
solvent | dichloroethane DMF | ClC(C)Cl.CN(C)C=O
product | (3′S)-1′-(4-fluorobenzoyl)-1,3′-bipyrrolidine | 57% | FC1=CC=C(C(=O)N2C[C@H](CC2)N2CCCC2)C=C1 | C15H19FN2O
